US05488188
Preparation of (E)-1-amino-2-(fluoromethylene)-4-(p-fluorophenyl)butane
Combine oxalyl chloride (2.71 g, 21.4 mmol) and toluene (20 mL). Cool to 0° C. Add N,N-dimethylformamide (1.62 g, 22.2 mmol) as a solution in toluene (2 mL). Warm to ambient temperature. After 10 minutes, cool to 0° C. Add (E)-2(fluoromethylene)-4-(p-fluorophenyl)butan-1-ol (4.0 g, 20.2 mmol) Warm to ambient temperature. After 18 hours, pour the reaction mixture into a saturated sodium chloride solution (100 mL). Extract the aqueous layer 3 times with toluene. Dry the combined organic layers over Na2SO4, filter, and evaporate in vacuo to give the title compound. 1H NMR (CDCl3, 300 MHz) δ2.52 (m, 2H), 2.75 (m, 2H), 3.91 (d, J=6 Hz, 2H), 6.65 (d, J=82.5 Hz, 1H), 6.95 (m, 2H), 7.15 (m, 2H).

reactant | oxalyl chloride | 21.4 mmol, 2.71 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N,N-dimethylformamide | 22.2 mmol, 1.62 g | CN(C=O)C | C3H7NO
reactant | (E)-2(fluoromethylene)-4-(p-fluorophenyl)butan-1-ol | 20.2 mmol, 4.0 g | F\C=C(\CO)/CCC1=CC=C(C=C1)F | C11H12F2O
reactant | sodium chloride | 100 mL | [Cl-].[Na+]
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | (E)-1-amino-2-(fluoromethylene)-4-(p-fluorophenyl)butane | NC/C(/CCC1=CC=C(C=C1)F)=C/F | C11H13F2N
